US07777038B2
1 g of 2-chloro-5-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)valeric acid, 380 mg of thiourea, and 380 mg of sodium acetate were added to 20 ml of methoxyethanol, followed by stirring at 110° C. for 5 hours. The reaction mixture was concentrated under reduced pressure, and water and a small amount of ethanol were added to the residue to precipitate a solid. The precipitated solid was collected by filtration. The solid collected by filtration was added to a mixed solvent of 10 ml of 10% hydrochloric acid and 10 ml of ethanol, followed by heating and refluxing overnight. The solvent was distilled off under reduced pressure, and the residue was extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate and concentrated. The concentrated residue was purified by silica gel column chromatography (dichloromethane:methanol of 100:1→10:1), and recrystallized from an ethanol-ether mixed solvent, giving 332 mg (29% yield) of 5-[3-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)propyl]thiazolidine-2,4-dione as a light yellow powder.

reactant | 2-chloro-5-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)valeric acid | 1 g | ClC(C(=O)O)CCCC1=C2C=CC(N(C2=C(C=C1)OC)C)=O | C16H18ClNO4
reactant | thiourea | 380 mg | NC(=S)N | CH4N2S
reactant | sodium acetate | 380 mg | C(C)(=O)[O-].[Na+]
solvent | methoxyethanol | 20 ml | COC(C)O | C3H8O2
product | 5-[3-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)propyl]thiazolidine-2,4-dione | 332 mg, 29% yield | COC=1C=CC(=C2C=CC(N(C12)C)=O)CCCC1C(NC(S1)=O)=O | C17H18N2O4S
